US05780498
Following the procedure described in example 12 and starting from N-(3,5-dimethylbenzoyl)-N-ethyl-(D)-phenylalanine (prepared by alkylation of N-(3,5-dimethylbenzoyl)-(D)-phenylalanine methyl ester with ethyl iodide in the presence of sodium hydride followed by hydrolysis of the methyl ester moiety according to example 1 and (L)-tryptophan methyl ester hydrochloride gives N-(3,5-dimethylbenzoyl)-N-ethyl-(D)-phenylalanyl-(L)-tryptophan; FAB-MS m/e 510 (M-H)-.

reactant | N-(3,5-dimethylbenzoyl)-N-ethyl-(D)-phenylalanine | CC=1C=C(C(=O)N([C@H](CC2=CC=CC=C2)C(=O)O)CC)C=C(C1)C | C20H23NO3
reactant | N-(3,5-dimethylbenzoyl)-(D)-phenylalanine methyl ester | COC([C@H](NC(C1=CC(=CC(=C1)C)C)=O)CC1=CC=CC=C1)=O | C19H21NO3
reactant | ethyl iodide | C(C)I | C2H5I
reactant | sodium hydride | [H-].[Na+]
reactant | (L)-tryptophan methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
product | N-(3,5-dimethylbenzoyl)-N-ethyl-(D)-phenylalanyl-(L)-tryptophan | CC=1C=C(C(=O)N([C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)O)CC)C=C(C1)C | C31H33N3O4
